US07220877B2
(E)(E)(S)(S) 2-Ethoxy-3-{4-[5-(4′-{5-[4-(2-ethoxy-2-ethoxycarbonylethyl)-phenoxy]-3-methyl-pent-3-en-1-ynyl}-biphenyl-4-yl)-3-methyl-pent-2-en-4-ynyloxy]-phenyl}-propionic acid ethyl ester
Under a atmosphere of nitrogen, diethyl azodicarboxylate (261 mg, 1.5 mmol) was added at 0–50° C. to a stirred solution of (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester (Tetrahedron Letters, Vol. 35, No 19, 3139–3142, 1994)(476 mg, 2.0 mmol), (E)(E) 5-[4′-(5-hydroxy-3-methyl-pent-3-en-1-ynyl)-biphenyl-4-yl]-3-methyl-pent-2-en-4-yn-1-ol (171 mg, 0.50 mmol) and triphenylphosphine (393 mg, 1.5 mmol), in dry THF (10 mL). After stirring at 0–5° C. for 1 h, the reaction mixture was added water and the product extracted with dichloromethane (2×). The combined organic phases were dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using dichloromethane/THF (40:1) as eluent to give 213 mg (56%) of the title compound.

reactant | diethyl azodicarboxylate | 1.5 mmol, 261 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-2-ethoxy-3-(4-hydroxyphenyl)-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | (E)(E) 5-[4′-(5-hydroxy-3-methyl-pent-3-en-1-ynyl)-biphenyl-4-yl]-3-methyl-pent-2-en-4-yn-1-ol | 0.50 mmol, 171 mg | OC/C=C(/C#CC1=CC=C(C=C1)C1=CC=C(C=C1)C#C/C(=C/CO)/C)\C | C24H22O2
reactant | triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)(E)(S)(S) 2-Ethoxy-3-{4-[5-(4′-{5-[4-(2-ethoxy-2-ethoxycarbonylethyl)-phenoxy]-3-methyl-pent-3-en-1-ynyl}-biphenyl-4-yl)-3-methyl-pent-2-en-4-ynyloxy]-phenyl}-propionic acid ethyl ester | 213 mg, 56% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(\C#CC1=CC=C(C=C1)C1=CC=C(C=C1)C#C\C(=C\COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)\C)/C)OCC)=O | C50H54O8
